US08110688B2
Synthesis of 2-acetoxy-6-methoxytoluene
A solution of 5.01 g (30.0 mmol) of 2-acetoxy-6-hydroxytoluene in 50 mL of acetonitrile was added with 12.44 g (90.0 mmol) of potassium carbonate and 12.77 g (90.0 mmol) of methyl iodide and heated and stirred on a 90° C. oil bath for 96 minutes. The reaction mixture which had been allowed to stand at room temperature for about 3 hours was added to a mixture of 100 mL of toluene and 100 mL of water stirred on an ice-water bath, and after stirred for two minutes, transferred to a separatory funnel and then settled. The aqueous layer was separated and discarded and after the organic layer was washed with 20 mL of 1 N aqueous sodium hydroxide and 20 mL of water three times, and the solvent was evaporated to obtain 4.69 g of title compound.

reactant | 2-acetoxy-6-hydroxytoluene | 30.0 mmol, 5.01 g | C(C)(=O)OC1=C(C(=CC=C1)O)C | C9H10O3
reactant | potassium carbonate | 90.0 mmol, 12.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 90.0 mmol, 12.77 g | CI | CH3I
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 2-acetoxy-6-methoxytoluene | 4.69 g | C(C)(=O)OC1=C(C(=CC=C1)OC)C | C10H12O3
